US08242104B2
Following the procedures of Example 378, 8-Chloro-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene-2-carboxylic acid 1-dimethylamino-methylideneamide was reacted with 2-chlorophenylhydrazine hydrochloride to give 8-chloro-2-[2-(2-chloro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene (MS (ESI+) 399.1/401.1) which was reacted with L-prolineamide to give 410. MS (ESI+) 477.1. 1H NMR (400 MHz, DMSO) δ 8.26 (s, 1H), 8.15 (s, 1H), 7.79 (s, 1H), 7.72 (dd, J=8.0, 1.1 Hz, 1H), 7.66-7.52 (m, 3H), 7.29 (br, 1H), 6.91 (br, 1H), 5.83 (s, 1H), 4.45-4.38 (m, 4H), 4.23 (d, J=7.7 Hz, 1H), 3.61-3.53 (s, 1H), 3.40-3.32 (m, 1H), 2.23-2.06 (m, 1H), 2.02-1.84 (m, 3H)

reactant | 8-Chloro-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene-2-carboxylic acid 1-dimethylamino-methylideneamide | CN(C=NC(=O)C1=CN2CCOC3=C(C2=N1)C=NC(=C3)Cl)C | C14H14ClN5O2
reactant | 2-chlorophenylhydrazine hydrochloride | Cl.ClC1=C(C=CC=C1)NN
product | 8-chloro-2-[2-(2-chloro-phenyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a,9-triaza-benzo[e]azulene | ClC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C2=C(C=CC=C2)Cl)C=N1 | C18H12Cl2N6O
